US06613784B1
a) Synthesis of 1-(4-Chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-acetic Acid 3-(Formyl)phenyl Ester
To a solution of 3-hydroxybenzaldehyde (g 8.30) and triethylamine (g 0.824) in methylene chloride (200 ml), cooling at a temperature in the range −5° C.-0° C. indomethacin in the form of the corresponding acylchloride (g 16.50) is added under stirring. It is still maintained under stirring for 15 minutes, then water (100 ml) is added and the phases are separated. The aqueous phase is recovered and extracted with methylene chloride (300 ml). The organic phases are joined together, washed with a 5% Na2CO3 solution, the organic phase is anhydrified with sodium sulphate obtaining the expected compound.

reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | indomethacin | CC1=C(C=2C=C(C=CC2N1C(=O)C=3C=CC(=CC3)Cl)OC)CC(=O)O | C19H16ClNO4
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Chlorobenzoyl)-5-methoxy-2-methyl-1H-indol-3-acetic Acid 3-(Formyl)phenyl Ester | C(=O)C=1C=C(C=CC1)OC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C26H20ClNO5
